US03996230
In the manner given in Example 1, 1,9-dibromo-8-chloro-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine is heated with 1-methylpiperazine to give 9-bromo-8-chloro-1-(4-methylpiperazino)-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 1,9-dibromo-8-chloro-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC1=NN=C2N1C1=C(C(=NC2)C2=NC=CC=C2)C=C(C(=C1)Br)Cl | C15H8Br2ClN5
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 9-bromo-8-chloro-1-(4-methylpiperazino)-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC1=CC2=C(C(=NCC=3N2C(=NN3)N3CCN(CC3)C)C3=NC=CC=C3)C=C1Cl | C20H19BrClN7
